*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2016
*  Date                 :26/08/2016
*  File Name            :CRS08.lib
*  Part Number          :CRS08
*  Parameter Ver.       :Ver.1
*  Simulator            :PSpice
*  Model Call Name      :CRS08
*  TNOM                 :25 degree
*  Pin Assign           :1=Anode 2=Cathode
*
* This PSpice model is provided with OLB file. The symbol is
* simplified for PSpice simulation. It is different from original
* device. Please check the technical data sheet or Toshiba website.
*********************************************************************
.SUBCKT CRS08 1 2
D1 1 2 CRS08
D2 1 2 PDIODE1
D3 1 2 PDIODE2
.MODEL CRS08 D (
+ IS = 1.3827e-005
+ N = 1.0382
+ RS = 0.24519
+ BV = 30
+ IBV = 1E-10
+ CJO = 4.7995e-10
+ M = 0.48186
+ VJ = 0.32607
+ TT = 0
+ TNOM = 25
+ XTI = -14.9618 )
.MODEL PDIODE1 D (
+ IS = 7e-009
+ N = 0.6374
+ RS = 0.078588
+ BV = 30
+ IBV = 1E-10
+ CJO = 0
+ M = 0.5
+ VJ = 1
+ TT = 0
+ TNOM = 25
+ XTI = -13.3823 )
.MODEL PDIODE2 D (
+ IS = 8e-009
+ N = 0.71641
+ RS = 0.089008
+ BV = 30
+ IBV = 1E-10
+ CJO = 0
+ M = 0.5
+ VJ = 1
+ TT = 0
+ TNOM = 25
+ XTI = -35.229 )
.ENDS
