* PSpice Model Editor - Version 16.2.0
*$
* LM2940-N_5P0
*****************************************************************************
* (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM2940-N_5P0
* Date: 19JAN2015 
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number:
* EVM Users Guide:
* Datasheet:SNVS769J–MARCH 2000–REVISED DECEMBER 2014
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
.SUBCKT LM2940-N_5P0_TRANS IN OUT GND_0 GND_1
R_R2         N222934 FB  2.7k  
R_R1         FB OUT  7.888k  
R_R6         N242982 VYY  10 TC=0,0 
R_Rgnd1         N222934 GND_1  100m TC=0,0 
C_U1_C2         0 U1_N05382  1n  
E_U1_ABM4         U1_N09035 0 VALUE { V(U1_N05348)  
+ * (ABS(V(OUT)) + 1e-6)  
+ / (ABS(V(U1_N05390)) + 1e-6)  }
V_U1_V6         U1_N23387 0 30.25
C_U1_C1         0 U1_N05348  {1e-6*SQRT(TTRN)} IC=0 
C_U1_C4         0 U1_N05390  1n  
R_U1_R1         N222934 U1_N05348  1G  
X_U1_U3         U1_N23687 U1_OVSD INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_U1_ABM7         U1_N08164 0 VALUE { IF(V(U1_OVSD)>0.5, {VREF}, 0)    }
R_U1_R6         FB U1_N05390  1 TC=0,0 
R_U1_R5         U1_N09745 N222524  10 TC=0,0 
R_U1_R3         U1_N08164 U1_N05348  {3.333e5*SQRT(TTRN)} TC=0,0 
X_U1_U4         IN U1_N23387 U1_N233213 U1_N23687 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
C_U1_C3         0 N222524  1n  
R_U1_R2         N222934 U1_N05382  1G  
E_U1_ABM5         U1_N09745 0 VALUE { MIN(V(U1_N05382),  
+ MAX(V(IN) - {DROP}, 0))   }
R_U1_R4         U1_N09035 U1_N05382  10 TC=0,0 
V_U1_V5         U1_N233213 0 500m
C_C3         0 VYY  1n  
R_R5         VZZ VYY  {ROUT}  
E_ABM1         N242982 0 VALUE { MIN(V(VXX), (V(Vzz)+(ILIM*ROUT)))    }
R_R11         VXX IN  {RINP}  
X_F1    VZZ OUT IN VYY LM2940-N_5P0_F1 
R_R22         N222524 VXX  {PSRR*RINP}  
C_C1         VXX IN  {1/(6.28*RINP*POLE)}  
C_C2         VXX N222524  {1/(6.28*PSRR*RINP*ZERO)}  
R_Rgnd0         N222934 GND_0  100m TC=0,0 
.PARAM  psrr=1.77e-4 ilim=1.9 pole=20k zero=80k rinp=1e7 ttrn=1e-4 rout=15m
+  vref=1.275 drop=0.5
.ENDS LM2940-N_5P0_TRANS
*$
.SUBCKT LM2940-N_5P0_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ENDS LM2940-N_5P0_F1
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
